US04880841
In 200 ml of chloroform was dissolved 21.2 g of methyl 5-acetyl-2-methylbenzenesulfinate and then 16.8 g of bromine was added dropwise to the solution with stirring at 40° C. After the reaction was over, the reaction mixture was added to 500 ml of water and the chloroform layer formed was recovered, washed with a saturated aqueous sodium hydrogen-carbonate solution, and dried with anhydrous magnesium sulfate. Then, the solvent was distilled off and the crude crystals formed were recrystallized from ethanol to provide 26 g of methyl 5-bromoacetyl-2-methylbenzenesulfinate having a melting point of 123°-125° C.

reactant | methyl 5-acetyl-2-methylbenzenesulfinate | 21.2 g | C(C)(=O)C=1C=CC(=C(C1)S(=O)OC)C | C10H12O3S
reactant | bromine | 16.8 g | BrBr | Br2
reactant | water | 500 ml | O | H2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-bromoacetyl-2-methylbenzenesulfinate | 26 g | BrCC(=O)C=1C=CC(=C(C1)S(=O)OC)C | C10H11BrO3S
